US07326791B2
(b) 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-hydroxycarbonylbenzamide
2.15 g of 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-methoxycarbonylbenzamide is dissolved in 50 mL of isopropanol, and 50 mL of 1 molar sodium hydroxide solution is added and the mixture is stirred for 3 hours at ambient temperature. Then it is poured into 250 mL ice water and extracted twice with ethyl acetate. The aqueous phase is adjusted to pH 4 with 1 molar hydrochloric acid and the precipitate formed is separated off by filtration. The solid is washed with a little demineralized water and dried at 40° C. Then the solid obtained is treated with 150 mL of solvent mixture comprising petroleum ether/diethyl ether/ethyl acetate and dried again. Yield: quantitative; C16H11Cl2N3O3 (364.19); mass spectrum: (M+H)+=364/66/68 (chlorine isotope).

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-methoxycarbonylbenzamide | 2.15 g | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)OC | C17H13Cl2N3O3
reactant | sodium hydroxide | 1 molar, 50 mL | [OH-].[Na+]
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-hydroxycarbonylbenzamide | Yield: quantitative | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
